US06046135
A mixture of ethyl 2-methoxyphenyiacetate (11.6 g), sodium tert-butoxide (12.7 g) and ethyl acetate (15.8 g) in diisopropylether was heated at 70° C. for 2.5 hours and stirred at room temperature overnight. Ethyl acetate and hydrochloric acid (2M) were added and the organic phase dried (magnesium sulphate) and evaporated. The residue was distilled in vacuo to give ethyl 2-(2-methoxyphenyl)acetoacetate as a liquid (8.5 g), NMR 1.15 and 1.13(t,3h), 1.8 and 2.2(s,3H), 3.75 and 3.85(s,3H), 4.1-4.3(2q,2H), 5.15(s,1H), 6.9-7.3(m,4H), 13.1(s,1H).

reactant | ethyl 2-methoxyphenyiacetate | 11.6 g | COC1=C(C=CC=C1)CC(=O)OCC | C11H14O3
reactant | sodium tert-butoxide | 12.7 g | CC(C)([O-])C.[Na+]
reactant | ethyl acetate | 15.8 g | C(C)(=O)OCC | C4H8O2
reactant | hydrochloric acid | 2M | Cl | ClH
solvent | diisopropylether | C(C)(C)OC(C)C | C6H14O
product | ethyl 2-(2-methoxyphenyl)acetoacetate | 8.5 g | COC1=C(C=CC=C1)C(C(=O)OCC)C(=O)C | C13H16O4
